Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Nausea, fatigue, weight loss, pancreatic mass
 
Major Surgical or Invasive Procedure:
ERCP endoscopic retrograde cholangiopancreatogram
EUS endoscopic ultrasound

 
History of Present Illness:
___ h/o HTN, hyperthyroidism (treated) and pancreatitis in 
___ earlier this year.  MRCP then showed subcm cysts 
?IPMN.  ___ f/u CT showed double duct sign with 3 cm x 2 cm 
pancreatic cyst/mass. She develped pain after the CT scan but 
tried to bear it at home. Admitted with epigastric pain on 
___  along with fatigue. It was the fatigue more than the 
pain which resulted in her presenting to ___ 
___. + nausea. + diarrhea x ___ months which improved to 
___ per day after she took a pill that her PCP gave her. She has 
lost 32 lbs in the past 6 months. No emesis. + light colored 
stools. + dark urine this week. + chills. No fevers. Tbili 4, 
AST 290, ALT 460.  No s/s cholangitis.  INR 1.0, Plt 247. S/p 
ERCP during which needle cut sphincterotomy performed but 
biliary tree could not be cannulated. Plan for EUS tomorow or 
next day.  

PAIN SCALE: ___ 
________________________________________________________________
REVIEW OF SYSTEMS: 10 or 2 with "all otherwise negative"
CONSTITUTIONAL:        [+] HPI
Eyes        [X] All Normal
ENT [ +] Dry mouth  [ ] Oral ulcers [ ] Bleeding gums [ +] Mild
sore throat  [] Sinus pain [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ] Other:
RESPIRATORY:    [] All Normal
[ ] Shortness of breath      [+ ] Dyspnea on exertion x 1 week
which she reports is more tiredness [ ] Can't walk 2 flights    
[ -] Cough [ ] Wheeze  [ ] Purulent sputum    [ ] Hemoptysis   [
-]Pleuritic pain 
[ ] Other:
CARDIAC:        [X]  All Normal
[ ] Palpitations   [ ] Edema   [ ] PND [ ] Orthopnea    [ ] 
Chest
Pain [ ] Dyspnea on exertion [ ] Other:
GI:             [] All Normal
[+ ] Nausea  [-] Vomiting   []  Abd pain  [] Abdominal swelling 
[
+] Diarrhea    [ ] Constipation  [ ] Hematemesis 
GU:             [] All Normal
[ +] Dysuria on ___ but now now      [ ] Incontinence or
retention  [ ] Frequency    [ ] Hematuria  []Discharge
[]Menorrhagia  
SKIN:           [] All Normal
[ ] Rash        [ -] Pruritus
MS:             [X] All Normal
[ ] Joint pain    [ ] Jt swelling   [ ] Back pain  [ ] Bony pain
NEURO:          [] All Normal
[ +] Headache- mild with some phonophobia    [ ] Visual changes  

[ ] Sensory change [ ]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo
[ ] Headache
ENDOCRINE:     [] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Heat or cold 
intolerance
[ +] loss of energy
HEME/LYMPH:    [] All Normal
[+ ] Easy bruising- chronic   [ ] Easy bleeding    [ ] 
Adenopathy

[X]all other systems negative except as noted above 
 
Past Medical History:
Pancreatitis ___
HTN
hyperthyroidism, s/p treatment, now euthyroid

 
Social History:
___
Family History:
Her mother had colon cancer at ___ but she decline therapy. 
Her father was killed by Pot Pho at a young age. 
 
Physical Exam:
VITAL SIGNS: 
1. VS: T = 99.4 P = 50 BP 115/60 RR 18 O2Sat on  __99% on RA 
___:  Elderly chronically ill appearing female
Nourishment: good  
2. Eyes: [] WNL 
Pupils not reactive to light, EOMI without nystagmus,
Conjunctiva: +icterus 
3. ENT [] WNL
[X] Dry  [] Poor dentition  [] Thrush  [] Swelling  [] Exudate
4. Cardiovascular [] WNL
[X] Regular  [] Tachy  [] S1 [] S2 [] Systolic Murmur     /6,
Location:
[] Irregular  [+]Brady []S3  [] S4  [] Diastolic Murmur    /6,
Location:
[X] Edema RLE  None 
[x] Edema LLE None 
[X] Vascular access  [] Peripheral [] Central site:
5. Respiratory [ X]WNL
[X] CTA bilaterally  [ ] Rales  [ ] Diminshed
6. Gastrointestinal [ ] WNL
[X] Soft [-] Rebound [] No hepatomegaly  [X] Non-tender [] 
Tender
[] No splenomegaly
[X] Non distended  [] distended  [] bowel sounds Yes/No  []
guiac: positive/negative
7. Musculoskeletal-Extremities [X] WNL
[ ] Tone WNL  [X]Upper extremity strength ___ and symmetrical  [
]Other:
[ ] Bulk WNL    [X] Lower extremity strength ___ and symmetrica 
[
] Other:
8. Neurological [X] WNL
[X] Alert and Oriented x 3 [ ] Romberg: Positive/Negative  [ ] 
CN
II-XII intact  [X] Normal attention  [ ] FNF/HTS WNL [] 
9. Integument  [X] WNL
[X] Warm  [x] Dry  [] Cyanotic [] Rash:
none/diffuse/face/trunk/back/limbs  
10. Psychiatric [X] WNL
[X] Appropriate [] Flat affect [] Anxious [] Manic [] 
Intoxicated
[] Pleasant [] Depressed [] Agitated [] Psychotic 
 
Pertinent Results:
___ 10:20PM   WBC-7.2 RBC-3.90* HGB-10.1* HCT-31.8* MCV-82 
MCH-25.9* MCHC-31.7 RDW-13.9
___ 10:20PM   NEUTS-75.6* LYMPHS-15.6* MONOS-7.9 EOS-0.6 
BASOS-0.2
___ 10:20PM   PLT COUNT-193
___ 10:20PM   ___ PTT-32.2 ___
___ 10:20PM   GLUCOSE-152* UREA N-4* CREAT-0.5 SODIUM-144 
POTASSIUM-3.6 CHLORIDE-107
___ 10:20PM   ALT(SGPT)-398* AST(SGOT)-271* ALK PHOS-230* 
TOT BILI-4.8*
___ 10:20PM   MAGNESIUM-1.8

ERCP ___:
Impression: Attempts of deep cannulation of the common bile duct
was difficult given the prominent papilla and redundant folds. 
Despite a precut sphincterotomy being performed using a
needle-knife, the bile duct was unable to be cannulated. 
Limited cholangiography delineated distal duct only. Complete
cholangiogram not achieved. 
Limited pancreatogram revealed stricture in the head of 
pancreas.
Recommendations: Admit to hospital for monitoring 
NPO overnight with IV hydration with LR 
Follow for response and complications. If any abdominal pain,
fever, jaundice, gastrointestinal bleeding please call ERCP
fellow on call ___ 
Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days. 
Plan for EUS while admitted to hospital

EUS ___:
Report not available.

CT PANCREAS ___:
IMPRESSION: 
1.  2.5 cm mass in the pancreatic head and uncinate process as 
described above. The mass contacts the SMA and SMV with less 
than 180 degrees of contact, however, the mass does involve the 
first draining vein of the SMV and the first SMA branch.
2. The remainder of the pancreas is atrophic with main duct and 
side branch dilation.
3. No evidence of metastatic disease.
4. Intrahepatic pneumobilia, air within the gallbladder and mild 
gallbladder wall thickening all compatible with ERCP and CBD 
stent placement.

 
Brief Hospital Course:
The patient is a ___ year old female with a h/o pancreatitis 6 
months ago now with continued weight loss, failure to thrive and 
concern for pancreatic mass on OSH imaging.

PANCREATIC MASS
BILIARY OBSTRUCTION
- very concerning for pancreatic malignancy; pt aware
- prelim cytology shows malignant cells/ adenoca; informed pt 
and family on afternoon of discharge
- f/u multidisciplinary pancreas center arranged
- cipro x 5 days (last dose ___
- analgesia & antiemetics prn
.
HTN: stable, continue nifedipine
.
HLD: holding statin given elevated transaminases
.
GERD: continue omeprazole
.
# DVT PROPHYLAXIS:   SCDs
# CODE STATUS:     full code   

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NIFEdipine CR 30 mg PO DAILY 
2. Calcium Carbonate 500 mg PO BID 
3. Alendronate Sodium 70 mg PO QSUN 
4. Atorvastatin 40 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Ondansetron 4 mg IV Q8H:PRN nausea 

 
Discharge Medications:
1. Calcium Carbonate 500 mg PO BID 
2. Multivitamins 1 TAB PO DAILY 
3. NIFEdipine CR 30 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Ciprofloxacin HCl 500 mg PO Q12H Duration: 2 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*4 Tablet Refills:*0
6. Alendronate Sodium 70 mg PO QSUN 
7. straight cane
dx pancreatic mass
prognosis fair
duration of need 13mos
ICD-9 code ___.8
___ ___
___, MD ___
8. Promethazine 25 mg PO Q6H:PRN nausea 
RX *promethazine 25 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0
9. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every six (6) hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
pancreatic mass with biliary obstruction, prelim cytology 
adenoca

SECONDARY DIAGNOSES:
hypertension
hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
please see below
 
Followup Instructions:
___